US04914207
1. 4-Hydroxymethyl-5-phenylimidazole
To a suspension of 4.5 g of ethyl 5-phenylimidazole-4-carboxylate [J. Het. Chem. 20, 1417 (1983)]in 50 ml of dry tetrahydrofuran at 5° C. was added in portions 1.1 g of lithium aluminum hydride. The resulting reaction mixture was stirred at room temperature for several hours and was then cooled to 10° C. and quenched with 1N hydrochloric acid until the evolution of hydrogen stopped. The reaction mixture was further diluted with water and extracted several times with ethyl acetate. The extracts were combined, dried and concentrated to give a white solid which has triturated with hexane and filtered, 3.2 g.

reactant | ethyl 5-phenylimidazole-4-carboxylate | 4.5 g | C1(=CC=CC=C1)C1=C(N=CN1)C(=O)OCC | C12H12N2O2
reactant | lithium aluminum hydride | 1.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Hydroxymethyl-5-phenylimidazole | OCC=1N=CNC1C1=CC=CC=C1 | C10H10N2O
